US08445674B2
G) 3-[(S)-4-(3,4-Dichloro-phenylcarbamoyl)-3-methyl-2-oxo-piperazin-1-yl]-propionic acid
A solution of 0.45 g (1.10 mmol) of 3-[(S)-4-(3,4-dichloro-phenylcarbamoyl)-3-methyl-2-oxo-piperazin-1-yl]-propionic acid tert-butyl ester in 3.0 ml of dichloromethane was treated at 0° C. with 5.40 ml (21.60 mmol, 4 M in dioxane) of HCl and stirred and warmed up to RT over night. The reaction was evaporated, dissolved in toluene and evaporated (3×) to give 0.52 g (quant.) of the titled compound as light yellow foam. MS: 372.1 (M−H−, 2Cl).

reactant | 3-[(S)-4-(3,4-dichloro-phenylcarbamoyl)-3-methyl-2-oxo-piperazin-1-yl]-propionic acid tert-butyl ester | 1.10 mmol, 0.45 g | C(C)(C)(C)OC(CCN1C([C@@H](N(CC1)C(NC1=CC(=C(C=C1)Cl)Cl)=O)C)=O)=O | C19H25Cl2N3O4
reactant | HCl | 21.60 mmol, 4 M, 5.40 ml | Cl | ClH
solvent | dichloromethane | 3.0 ml | ClCCl | CH2Cl2
product | 3-[(S)-4-(3,4-Dichloro-phenylcarbamoyl)-3-methyl-2-oxo-piperazin-1-yl]-propionic acid | ClC=1C=C(C=CC1Cl)NC(=O)N1[C@H](C(N(CC1)CCC(=O)O)=O)C | C15H17Cl2N3O4
